US08309724B2
Step C: Preparation of N′-((Z)-piperazin-2-ylidene)-trifluoroacetohydrazide
The solution of ethylene diamine (89 g) in methanol (305 mL) is stirred and cooled to −20° C. over about 45 minutes. 5-(trifluoromethyl)-2-(chloromethyl)-1,3,4-oxadiazole (79 g) is added slowly to the solution over 90 minutes at −20° C. The resulting slurry is stirred for about 90 minutes at −20° C. Ethanol (482 mL) is added and the slurry is warmed to −5° C. After stirring for about 2 hours at −5° C., the solid is filtered, washed with ethanol (79 mL) and dried at about 55° C. to afford the title compound. (Yield: 46.8%)

reactant | ethylene diamine | 89 g | C(CN)N | C2H8N2
reactant | 5-(trifluoromethyl)-2-(chloromethyl)-1,3,4-oxadiazole | 79 g | FC(C1=NN=C(O1)CCl)(F)F | C4H2ClF3N2O
reactant | Ethanol | 482 mL | C(C)O | C2H6O
solvent | methanol | 305 mL | CO | CH4O
product | N′-((Z)-piperazin-2-ylidene)-trifluoroacetohydrazide | Yield: 46.8% | N1\C(\CNCC1)=N/NC(C(F)(F)F)=O | C6H9F3N4O
